US06800651B2
N-(3-Methoxycarbonylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
Into a 0° C. solution of N-(3-methoxycarbonylphenyl) pyrid-3-ylmethylamine (204 g, 0.842 mole, 1 eq) in dichloroethane (3610 mL) and pyridine (1775 mL) was added ethanesulfonyl chloride (114 mL, 1.2 mole, 1.43 eq). The reaction was allowed to warm to room temperature overnight. The dark red reaction was stirred with potassium carbonate (204 g) for 30 minutes and then filtered and concentrated to dryness. The residue was purified by Biotage, eluting with 3:1 to 2:1 DCM/EtOAc mixture to give the title compound as a white solid (137.0 g, 49% yield).

reactant | N-(3-methoxycarbonylphenyl) pyrid-3-ylmethylamine | 0.842 mole, 204 g, 1 eq | COC(=O)C=1C=C(C=CC1)NCC=1C=NC=CC1 | C14H14N2O2
reactant | ethanesulfonyl chloride | 1.2 mole, 114 mL, 1.43 eq | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | potassium carbonate | 204 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloroethane | 3610 mL | ClC(C)Cl | C2H4Cl2
solvent | pyridine | 1775 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-Methoxycarbonylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | 137.0 g, 49% yield | COC(=O)C=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C16H18N2O4S
